US07173031B2
B) 1-(4-Aminophenyl)-3-(2-(4-fluorophenyl)acetyl)urea
To a solution of 1-(2-(4-fluorophenyl)acetyl)-3-(4-nitrophenyl)urea (200 mg, 0.63 mmol) in ethyl acetate (10 mL) was added 10% palladium on carbon (15 mg) and the flask was filled with hydrogen using a balloon. The mixture was stirred for 18 h, filtered and the catalyst was washed with ethyl acetate. The filtrate was concentrated in vacuo to give a solid which was was triturated with small amount of ether and dried in vacuo to obtain the desired compound (180 mg) as pale yellow solid. MS(ESI+) m/z 287.4 (M+H)+.

reactant | 1-(2-(4-fluorophenyl)acetyl)-3-(4-nitrophenyl)urea | 0.63 mmol, 200 mg | FC1=CC=C(C=C1)CC(=O)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C15H12FN3O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
product | 1-(4-Aminophenyl)-3-(2-(4-fluorophenyl)acetyl)urea | 180 mg | NC1=CC=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O | C15H14FN3O2
